US07511050B2
Step D: 7-cyclobutyl-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
(2E)-8-cyclobutyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone (100 mg, 0.0003 mol) was mixed with triethyl orthoacetate (10 mL, 0.05 mol) and then stirred at 100° C. overnight. After cooling to room temperature, the mixture was concentrated and purified by preparative LCMS to yield the desired product (10 mg, 9.2%). 1HNMR (300 MHz, CD3OD): δ 4.35 (m, 2H), 3.72 (m, 1H), 2.84 (s, 3H), 2.44 (m, 4H), 2.05 (m, 2H), 1.90 (m, 2H), 1.40 (m, 4H), 0.92 (m, 3H). LCMS calculated for C16H23N6O(M+H): 315.2; found: 315.2.

reactant | (2E)-8-cyclobutyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone | 0.0003 mol, 100 mg | C1(CCC1)C1=NC=2N(/C(/NC(C2N1)=O)=N/N)CCCCC | C14H22N6O
reactant | triethyl orthoacetate | 0.05 mol, 10 mL | C(C)(OCC)(OCC)OCC | C8H18O3
product | 7-cyclobutyl-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 10 mg, 9.2% | C1(CCC1)C1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)C)CCCCC | C16H22N6O
